US07173028B2
3-(4-aminomethyl-cyclohexyl)-propionic Acid
13 g of 3-[4-(acetylamino-methyl)-cyclohexyl]-propionic acid are added to 200 ml of semi-concentrated aqueous hydrochloric acid and the resulting solution is refluxed overnight. The mixture is combined with acetone, recrystallised and the precipitate is separated off. When the mother liquor is concentrated step by step further fractions of the crystallin product are isolated. The fractions are combined, recrystallised with isopropanol and then dried.

reactant | 3-[4-(acetylamino-methyl)-cyclohexyl]-propionic acid | 13 g | C(C)(=O)NCC1CCC(CC1)CCC(=O)O | C12H21NO3
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 3-(4-aminomethyl-cyclohexyl)-propionic Acid | NCC1CCC(CC1)CCC(=O)O | C10H19NO2
